US03963713
A mixture of 5.42 g. (0.02 mole) 5,7-dihydro-5,5,7,7-tetramethyl-3-phenylfuro[3,4-e]-as-triazine-4-oxide and 70 ml. triethylphosphite is refluxed under nitrogen for 18 hours at a bath temperature of 180°C. The solvent is removed in vacuo and the residue recrystallized from aqueous ethanol to give 5,7-dihydro-5,5,7,7-tetramethyl-3-phenylfuro[3,4-e]-as-triazine, m.p. 90°-91°C.

reactant | 5,7-dihydro-5,5,7,7-tetramethyl-3-phenylfuro[3,4-e]-as-triazine-4-oxide | 0.02 mole | CC1(OC(C2=C1[N+](=C(N=N2)C2=CC=CC=C2)[O-])(C)C)C | C15H17N3O2
reactant | triethylphosphite | C(C)OP(OCC)OCC | C6H15O3P
product | 5,7-dihydro-5,5,7,7-tetramethyl-3-phenylfuro[3,4-e]-as-triazine | CC1(OC(C2=C1N=C(N=N2)C2=CC=CC=C2)(C)C)C | C15H17N3O
